* source LAB3_1
R_R1         N00229 N00236  10 TC=0,0 
V_V1         0 N00225 DC 30  
R_R2         N00225 N00229  10 TC=0,0 
R_R3         N00236 N00403  20 TC=0,0 
R_R4         N00236 N00375  20 TC=0,0 
R_R5         0 N00403  10 TC=0,0 
R_R6         0 N00236  10 TC=0,0 
I_I1         0 N00236 DC 5  
V_V2         N00375 N00403 DC 20  
